** sch_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/SHIFTER/left_shifter.sch
.subckt left_shifter A0 A1 A2 A3 A4 A5 A6 A7 S0 S1 S2 S3 S4 S5 S6 S7 C VDD VSS
*.PININFO A7:I S7:O A6:I A5:I A4:I A3:I A2:I A1:I A0:I S6:O S5:O S4:O S3:O S2:O S1:O C:O S0:O VDD:I
x1 A0 VSS VDD S1 buffer
x2 A1 VSS VDD S2 buffer
x3 A2 VSS VDD S3 buffer
x4 A3 VSS VDD S4 buffer
x5 A4 VSS VDD S5 buffer
x6 A5 VSS VDD S6 buffer
x7 A6 VSS VDD S7 buffer
x8 A7 VSS VDD C buffer
x9 VDD VSS VDD S0 inv
.ends

* expanding   symbol:  INV/buffer.sym # of pins=2
** sym_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/INV/buffer.sym
** sch_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/INV/buffer.sch
.subckt buffer A VSS VDD Y
*.PININFO A:I Y:O
x1 A VSS VDD net1 inv
x2 net1 VSS VDD Y inv
.ends


* expanding   symbol:  INV/inv.sym # of pins=2
** sym_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/INV/inv.sym
** sch_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/INV/inv.sch
.subckt inv A VSS VDD Y
*.PININFO A:I Y:O
XM2 Y A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 Y A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3.21 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.end
